US06936609B2
N-[4-({[2-(4-Bromophenyl)-5,7-dimethylimidazo[5,1-f][1,2,4]triazin-4-yl]amino}-methyl)phenyl]acetamide
2-(4-Bromophenyl)-5,7-dimethyl-4-(1H-1,2,4-triazol-1-yl)imidazo[5,1-f][1,2,4]-triazine (3.7 mg, 10 mmol) is treated in dioxane (100 μl) with 4-acetylamino-benzylamine (3.3 mg, 20 mmol) and triethylamine (4 μl). The mixture is heated at 80° C. with shaking for 12 h, filtered and washed with DMSO (2×100 μl). The combined filtrates are purified chromatographically by preparative LC-MS.

reactant | 2-(4-Bromophenyl)-5,7-dimethyl-4-(1H-1,2,4-triazol-1-yl)imidazo[5,1-f][1,2,4]-triazine | 10 mmol, 3.7 mg | BrC1=CC=C(C=C1)C1=NN2C(C(=N1)N1N=CN=C1)=C(N=C2C)C | C15H12BrN7
reactant | 4-acetylamino-benzylamine | 20 mmol, 3.3 mg | C(C)(=O)NC1=CC=C(CN)C=C1 | C9H12N2O
reactant | triethylamine | 4 μl | C(C)N(CC)CC | C6H15N
solvent | dioxane | 100 μl | O1CCOCC1 | C4H8O2
product | N-[4-({[2-(4-Bromophenyl)-5,7-dimethylimidazo[5,1-f][1,2,4]triazin-4-yl]amino}-methyl)phenyl]acetamide | BrC1=CC=C(C=C1)C1=NN2C(C(=N1)NCC1=CC=C(C=C1)NC(C)=O)=C(N=C2C)C | C22H21BrN6O
